US06291452B1
A mixture of (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl]-2,3-dihydro-5-ethyl-9-methyl-1H-1,4-benzodiazepin-2-one (310 mg) and 3-methylphenyl isocyanate (113 mg) in tetrahydrofuran (8 ml) was stirred at room temperature for 1 hour. The reaction mixture was evaporated in vacuo to dryness. The residue was triturated in diisopropyl ether and collected by filtration to afford N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl 2,3-dihydro-5-ethyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea (360 mg, 86.2% yield) as a crystalline powder.

reactant | (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl]-2,3-dihydro-5-ethyl-9-methyl-1H-1,4-benzodiazepin-2-one | 310 mg | NC1C(N(C2=C(C(=N1)CC)C=CC=C2C)CC(=O)N2CC1CCC(C2)CC1)=O | C22H30N4O2
reactant | 3-methylphenyl isocyanate | 113 mg | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl 2,3-dihydro-5-ethyl-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-methylphenyl)urea | 360 mg, 86.2% yield | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)CC)NC(=O)NC1=CC(=CC=C1)C)=O | C30H37N5O3
